datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O+:10](C([H])C(CC)[NH]1)[C:20]1([NH:21]CC)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C([H])C(CC)[NH][C:20]([NH]CC)=[NH+:21]CC 21=20;20,10=10"
"C[O+:21]=[C:20]2[S][CH](CC)[CH](C)C(CC)[S]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[S][CH](CC)C(C)[CH](CC)[S]1 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O][CH]([H])[CH](C)C(C8=CC=CC=C8)[S]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21][H])[O][CH]([H])C(C)[CH](C8=CC=CC=C8)[S]1 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C(C)[NH][C:20]([O]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C 10=20;20,21=21"
"[H][NH+:10](C([H])C([H])C(CC)[O]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])C(CC)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21]CC)[O][CH](C)C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH](C)[CH](C)C([H])[O]2.C[O:10][H] 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](=[O:10])N1CCCCCC)CCCCCC)CC.[O-:21]CC>>CCCCCCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)CCCCCC)CC 21=20;20,10=10"
"CC1C(C(O[C:20](N1CCCCCC)([O-:10])[Cl:21])C)C1=CC=CC=C1>>CC1C(C(O[C:20](=[O:10])N1CCCCCC)C)C1=CC=CC=C1.[Cl-:21] 10=20;20,21=21"
"[H][NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O]C8=CC=CC=C8)[O]CC.[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O]C8=CC=CC=C8)[O]CC 10=20;20,21=21"
"[OH:10]C(CCC)/C(C)=C([C:20](OCC)=[OH+:21])/O>>[OH:21][C:20]1(OCC)[OH+:10]C(CCC)C(C)=C1O 10=20;20,21=21"
"[NH:10](C)C(C(C1=C(C=CC=C1)[CH:20](OC)=[O:21])O)[H]>>[O-:21][CH:20]2(OC)C3=C(C(C([NH+:10]2(C))[H])O)C=CC=C3  10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C([H])[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C(C)[CH]([H])[NH]1 10=20;20,21=21"
"[H][O:10]C(C)C([H])C(C8=CC=CC=C8)[O][C:20]([NH][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[NH][H] 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1[H])OCC)CCCCCC)CCCCCC>>C(C([O-:21])[H])(C(O[C:20](=[O:10])OCC)CCCCCC)CCCCCC 10=20;20,21=21"
"C[NH+:10]([H])[C:20]([NH:21][H])([NH]CC)[O]CC.[Cl-]>>[Cl-].C[NH:10][H].[H][NH+:21]=[C:20]([NH]CC)[O]CC 21=20;20,10=10"
"C[S:10][H].[H][O+:21]=[C:20]([S][H])[S]C7=CC=CC=C7.[Cl-]>>[Cl-].C[S+:10]([H])[C:20]([O:21][H])([S][H])[S]C7=CC=CC=C7 10=20;20,21=21"
"[H][S+:10](C(C9=CC=CC=C9)C(C)C([H])[O]1)[C:20]1([O:21]C)[O]C.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C(C)C([H])[O][C:20]([O]C)=[O+:21]C 21=20;20,10=10"
"[H][NH:10][H].CC[NH+:21]=[C:20]([O]CC)[NH]CC.[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]([NH:21]CC)([O]CC)[NH]CC 10=20;20,21=21"
"CCCCCCN([C:20]([O-:10])(OCCCCCC)[O:21]CCCCCC)C>>CCCCCCN([C:20](=[O:10])OCCCCCC)C.[O-:21]CCCCCC 10=20;20,21=21"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CC)CC)CC)CC>>CCCCCCN([C:20]1(OC(C(C([O:21]1)CC)CC)CC)[O-:10])CC 21=20;20,10=10"
"[H][NH+:10](C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[NH]C.[Cl-]>>[Cl-].[H][NH:10]C([H])C(C8=CC=CC=C8)[NH][C:20]([NH]C)=[NH+:21]C 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](N1[H])([O-:10])[O:21]CCCCCC)CCCCCC)CC>>CCCCCCC1C(C(O[C:20](=[O:10])N1[H])CCCCCC)CC.[O-:21]CCCCCC 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21][H])([O]CC)[O]C.[Cl-]>>[Cl-].C9=CC=CC=C9[NH:10][H].[H][NH+:21]=[C:20]([O]CC)[O]C 21=20;20,10=10"
"[H][NH+:10](C(CC)C([H])C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH][H].[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])C(CC)[O][C:20]([NH][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C[S+:10]([H])[C:20]1([O:21]C)[O][CH](C)C(C)[CH](CC)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH](C)[CH](C)C(CC)[S]2.C[S:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(OCC)[NH+:10](C)C([H])C([H])=C1[H]>>[NH:10](C)C([H])/C([H])=C([C:20](OCC)=[O:21])/[H] 21=20;20,10=10"
"C9=CC=CC=C9[S:10][H].[H][O+:21]=[C:20]([O][H])[S]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]([O:21][H])([O][H])[S]CC 10=20;20,21=21"
"[H][O+:10](C([H])C(CC)[O]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C([H])C(CC)[O][C:20]([O]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](N1C)([O-:10])[O:21][H])C1=CC=CC=C1)CCCCCC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C)C1=CC=CC=C1)CCCCCC.[O-:21][H] 10=20;20,21=21"
"C[NH+:10]([H])[C:20]([NH:21]CC)([NH]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].C[NH:10][H].CC[NH+:21]=[C:20]([NH]C)[NH]C7=CC=CC=C7 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C)CC)CCCCCC.[O-:21]C1=CC=CC=C1>>C1=CC=CC=C1C1C(C(O[C:20](N1C)([O-:10])[O:21]C1=CC=CC=C1)CC)CCCCCC 21=20;20,10=10"
"[H][S+:10](C(CC)C(C)C([H])[O]1)[C:20]1([O:21]C)[S]CC.[Cl-]>>[Cl-].[H][S:10]C(CC)C(C)C([H])[O][C:20]([S]CC)=[O+:21]C 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)C)C)C1=CC=CC=C1)[O-:10])C>>CN([C:20](=[O:10])OC(C(C([O-:21])C)C)C1=CC=CC=C1)C 10=20;20,21=21"
"CC1C(C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)C1=CC=CC=C1)C>>CC1C(C(O[C:20](=[O:10])N1C)C1=CC=CC=C1)C.[O-:21]CCCCCC 10=20;20,21=21"
"[H]C1C(C(O[C:20](=[O:10])N1CCCCCC)CCCCCC)C.[O-:21]C>>[H]C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]C)CCCCCC)C 21=20;20,10=10"
"[H][S+:10](C(CC)C([H])C(C)[O]1)[C:20]1([O:21]C)[S]C.[Cl-]>>[Cl-].[H][S:10]C(CC)C([H])C(C)[O][C:20]([S]C)=[O+:21]C 21=20;20,10=10"
